.title KiCad schematic
R1 Net-_R1-Pad1_ IN_1a 100k
R3 Net-_R3-Pad1_ Net-_R1-Pad1_ 100k
XU1 Net-_R3-Pad1_ Net-_R1-Pad1_ GND -15V GND Net-_R2-Pad1_ Net-_R4-Pad1_ +15V TL072c
R5 Xa Net-_R3-Pad1_ 10k
R7 GND Xa 22
R4 Net-_R4-Pad1_ Net-_R2-Pad1_ 100k
R6 Ya Net-_R4-Pad1_ 10k
R8 GND Ya 22
R2 Net-_R2-Pad1_ IN_2a 100k
XU2 Net-_R19-Pad2_ Net-_R16-Pad2_ Net-_R17-Pad2_ -15V GND Net-_R39-Pad2_ OUT_a +15V TL072c
R12 +15V DIFF2_a 750
R9 +15V DIFF1_a 750
R19 Net-_R16-Pad2_ Net-_R19-Pad2_ 430k
R18 GND Net-_R17-Pad2_ 430k
R16 DIFF1_a Net-_R16-Pad2_ 10k
R17 DIFF2_a Net-_R17-Pad2_ 10k
R11 Net-_Q2-Pad3_ -15V 750
C7 Net-_C7-Pad1_ Xa 0.22u
R15 Net-_C8-Pad2_ -15V 1k
R14 +15V Net-_C8-Pad2_ 3k
R13 Net-_C8-Pad2_ Net-_Q5-Pad2_ 2.2k
R10 Net-_C8-Pad2_ Net-_C7-Pad1_ 2.2k
C8 GND Net-_C8-Pad2_ 0.1u
C3 +15V GND 0.1u
C4 GND -15V 0.1u
C5 +15V GND 0.1u
C6 GND -15V 0.1u
C1 +15V GND 10u
C2 GND -15V 10u
C12 GND -15V 0.1u
C11 +15V GND 0.1u
XU3 Net-_R22-Pad1_ Net-_R20-Pad1_ GND -15V GND Net-_R21-Pad1_ Net-_R23-Pad1_ +15V TL072c
R40 Net-_R39-Pad2_ OUT_a 100k
R39 Net-_R19-Pad2_ Net-_R39-Pad2_ 100k
C14 GND -15V 0.1u
C13 +15V GND 0.1u
XU4 Net-_R38-Pad2_ Net-_R35-Pad2_ Net-_R36-Pad2_ -15V GND Net-_R41-Pad2_ OUT_b +15V TL072c
Q4 DIFF1_a GND Net-_Q4-Pad3_ BC547B
Q2 Net-_Q1-Pad3_ Net-_C7-Pad1_ Net-_Q2-Pad3_ BC547B
Q3 DIFF2_a GND Net-_Q1-Pad3_ BC547B
Q6 DIFF2_a Ya Net-_Q4-Pad3_ BC547B
Q5 Net-_Q4-Pad3_ Net-_Q5-Pad2_ Net-_Q2-Pad3_ BC547B
Q1 DIFF1_a Ya Net-_Q1-Pad3_ BC547B
R20 Net-_R20-Pad1_ IN_1b 100k
R22 Net-_R22-Pad1_ Net-_R20-Pad1_ 100k
R24 Xb Net-_R22-Pad1_ 10k
R26 GND Xb 22
R23 Net-_R23-Pad1_ Net-_R21-Pad1_ 100k
R25 Yb Net-_R23-Pad1_ 10k
R27 GND Yb 22
R21 Net-_R21-Pad1_ IN_2b 100k
R31 +15V DIFF2_b 750
R28 +15V DIFF1_b 750
R38 Net-_R35-Pad2_ Net-_R38-Pad2_ 430k
R37 GND Net-_R36-Pad2_ 430k
R35 DIFF1_b Net-_R35-Pad2_ 10k
R36 DIFF2_b Net-_R36-Pad2_ 10k
R30 Net-_Q11-Pad3_ -15V 750
C9 Net-_C9-Pad1_ Xb 0.22u
R34 Net-_C10-Pad2_ -15V 1k
R33 +15V Net-_C10-Pad2_ 3k
R32 Net-_C10-Pad2_ Net-_Q11-Pad2_ 2.2k
R29 Net-_C10-Pad2_ Net-_C9-Pad1_ 2.2k
C10 GND Net-_C10-Pad2_ 0.1u
R42 Net-_R41-Pad2_ OUT_b 100k
R41 Net-_R38-Pad2_ Net-_R41-Pad2_ 100k
Q9 DIFF2_b GND Net-_Q7-Pad3_ BC547B
Q7 DIFF1_b Yb Net-_Q7-Pad3_ BC547B
Q10 DIFF1_b GND Net-_Q10-Pad3_ BC547B
Q8 Net-_Q7-Pad3_ Net-_C9-Pad1_ Net-_Q11-Pad3_ BC547B
Q11 Net-_Q10-Pad3_ Net-_Q11-Pad2_ Net-_Q11-Pad3_ BC547B
Q12 DIFF2_b Yb Net-_Q10-Pad3_ BC547B
.end
